US04242518
2.17 parts of 1,4-dihydro-4-methylthieno-[3,4-b]-quinolin-9(3H)-one are reacted with 0.88 part by volume of sulfuryl chloride in 25 parts by volume of methylene chloride at 0° C. for 0.5 hour. The end product is isolated from the reaction mixture by the method described in Example 5c. 1.50 parts (70% of theory) of 4-methylthieno-[3,4-b]-quinolin-9(4H)-one of the melting point 188°-190° C. are obtained.

reactant | 1,4-dihydro-4-methylthieno-[3,4-b]-quinolin-9(3H)-one | CN1C2=C(C(C=3C=CC=CC13)=O)CSC2 | C12H11NOS
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-methylthieno-[3,4-b]-quinolin-9(4H)-one | 70% | CN1C=2C(C(C=3C=CC=CC13)=O)=CSC2 | C12H9NOS
